US04478842
A solution of 1.4 g of sodium nitrite in 5 ml of water is added dropwise at 0°-10° to a mixture of 4.42 g of N-(5-methoxycarbonylpentyl)-aniline, 2.9 ml of concentrated hydrochloric acid, and ice as needed to maintain the desired temperature. The mixture is then allowed to stir at ambient temperature for 1 hour and is then extracted with ether. The extract is washed with water, dried over magnesium sulfate, and evaporated in vacuo to give N-nitroso-N-(5-methoxycarbonylpentyl)-aniline as an oil.

reactant | sodium nitrite | 1.4 g | N(=O)[O-].[Na+]
reactant | N-(5-methoxycarbonylpentyl)-aniline | 4.42 g | COC(=O)CCCCCNC1=CC=CC=C1 | C13H19NO2
reactant | hydrochloric acid | 2.9 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | N-nitroso-N-(5-methoxycarbonylpentyl)-aniline | N(=O)N(C1=CC=CC=C1)CCCCCC(=O)OC | C13H18N2O3
